US08859584B2
4-bromo-5-fluoro-2,3-dihydro-1H-inden-1-one
A solution of aluminum trichloride (11.10 g, 83.00 mmol) in dichloroethane (100 mL) was slowly added a solution of 5-fluoro-2,3-dihydro-1H-inden-1-one (5 g, 33.3 mmol) in dichloroethane (10 mL) at ambient temperature and stirred for 5 minutes, followed with the addition of bromine (2.57 mL, 50.0 mmol). The resulting dark red mixture was heated at 70° C. for 2 hours. The reaction mixture was cooled to ambient temperature and poured into a mixture of ice and HCl (1N, 50 mL). Diethyl ether (300 mL) was added and the mixture was partitioned. The organic portion was washed with water (75 mL) and brine (50 mL), dried (MgSO4), filtered, and concentrated under reduced pressure. The resulting residue was chromatographed on silica gel (gradient elution: 0-10% EtOAc/hexanes) to provide the title compound mixed with inseparable bisbrominated side product (4,7-dibromo-5-fluoro-2,3-dihydro-1H-inden-1-one). MS (DCI) m/z 246 (M+NH4)+.

reactant | aluminum trichloride | 83.00 mmol, 11.10 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 5-fluoro-2,3-dihydro-1H-inden-1-one | 33.3 mmol, 5 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | bromine | 50.0 mmol, 2.57 mL | BrBr | Br2
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | Diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 4-bromo-5-fluoro-2,3-dihydro-1H-inden-1-one | BrC1=C2CCC(C2=CC=C1F)=O | C9H6BrFO
